US06087380
g) 1-Methyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]pyridin-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide
308 mg (1.0 mMol) of 1-methyl-2-[(4-cyanophenyl)oxymethyl]-5-carboxy-imidazo[4.5-b]pyridine were suspended in 5 ml of dimethylformamide and mixed with 303 mg (3.0 mMol) of N-methyl-morpholine and 321 mg (1.0 mMol) of O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyl-uronium tetrafluoroborate. After 10 minutes at room temperature a solution of 215 mg (1.2 mMol) of methyl N-(2-pyridyl)-3-amino-propionate in 2 ml of dimethylformamide was added, whereupon a clear solution was obtained. After 12 hours at room temperature the reaction solution was stirred into ice-water. After extracting 3 times with ethyl acetate the combined organic extracts were washed with a saline solution, dried over sodium sulphate and evaporated down. The residue obtained was chromatographed on silica gel with dichloromethane/ethanol (90:1 to 25:1). Yield: 165 mg of white powder (35% of theory), C25H12N6O4 (407.50) Melting point: 139-140° C.

reactant | 1-methyl-2-[(4-cyanophenyl)oxymethyl]-5-carboxy-imidazo[4.5-b]pyridine | 1.0 mMol, 308 mg | CN1C(=NC2=NC(=CC=C21)C(=O)O)COC2=CC=C(C=C2)C#N | C16H12N4O3
reactant | N-methyl-morpholine | 3.0 mMol, 303 mg | CN1CCOCC1 | C5H11NO
reactant | O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyl-uronium tetrafluoroborate | 1.0 mMol, 321 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | methyl N-(2-pyridyl)-3-amino-propionate | 1.2 mMol, 215 mg | N1=C(C=CC=C1)NCCC(=O)OC | C9H12N2O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-2-[(4-cyanophenyl)oxymethyl]-imidazo[4,5-b]pyridin-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC=C2C(=N1)N=C(N2C)COC2=CC=C(C=C2)C#N)CCC(=O)OC | C25H22N6O4
